US08242134B2
(8-Fluoro-3-methyl-1-oxo-1H-isoquinolin-2-yl)-carbamic acid tert-butyl ester
A suspension of 4-[1-Ethoxy-eth-(E)-ylidene]-8-fluoro-2-benzopyran-1,3-dione (5.25 g, 21.0 mmol), tert-butyl carbazate (3.43 g, 26.0 mmol) in ethanol (25.0 mL, 428 mmol) was heated under reflux for 30 min with intensive gas formation. The obtained clear purple solution was allowed to cool to r.t. with formation of white precipitate, cooled on dry ice—ethanol bath, filtered, washed with cold ethanol (3×10 ml) to give 3.436 g of the pure title product. Supernatant was quenched with water (200 ml), sat. aq. NaHCO3 (50 ml) and diisopropyl ether (ca 20 ml), shaked, then quenched with heptane (100 ml) and sonicated. White precipitated was separated from this bilayer system by filtration to give 470 mg more of the title product; total yield 63.7%. LC-MS (m/z) 293.0 (traces, MH+), fragments: 237.3, 193.2 (major, M-Boc), 176.3. 1H NMR (500 MHz, DMSO-d6), 88:12 mixture of rotamers A and B: 1.29 (s, 1.1H, tBu of B), 1.47 (s, 7.9H, tBu of A), 2.21 (s, 2.6H, Me of A), 2.21 (s, 0.4H, Me of B), 6.52 (s, 1H, C4-H), 7.17 (dd, J=8.3 Hz, J (H—F)=11.6 Hz, 1H, C7-H), 7.36 (d, J=7.9 Hz, 1H, C5-H), 7.68 (dt, J=7.8 Hz, J (H—F)=4.9 Hz, 1H, C6-H), 9.33 (s, 0.12H, NH of B), 9.8 (s, 0.88H, NH of A). 13C APT NMR (125.76 MHz, dmso-d6=39.89 ppm): 18.96 (Me), 27.99 (tBu of B), 28.31 (tBu of A), 80.98 (C of tBu), 103.59 (C4-H), 112.81 (d, J=20.9 Hz, C7-H), 113.25 (d, J=5 Hz, C9), 122.03 (d, J=3.5 Hz, C5-H), 134.62 (d, J=9.9 Hz, C6-H), 139.64 (C10), 143.96 (C3), 155.39 (NHCO2), 157.88 (d, J=4.5 Hz, C1=O), 161.77 (d, J=262 Hz, C8-F). 19F NMR (470.59 MHz): −111.47 (unres. dd, J=11 Hz, J<4 Hz, rotamer A), −111.35 (unres. dd, J=10.5 Hz, rotamer B). VT 1H NMR (T=353 K, 250 MHz): all doubled signals corresponding to rotamers A and B have coalesced.

reactant | 4-[1-Ethoxy-eth-(E)-ylidene]-8-fluoro-2-benzopyran-1,3-dione | 21.0 mmol, 5.25 g | C(C)O\C(\C)=C/1\C(OC(C2=C1C=CC=C2F)=O)=O | C13H11FO4
reactant | tert-butyl carbazate | 26.0 mmol, 3.43 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | ethanol | 428 mmol, 25.0 mL | C(C)O | C2H6O
product | (8-Fluoro-3-methyl-1-oxo-1H-isoquinolin-2-yl)-carbamic acid tert-butyl ester | 3.436 g, yield 63.7% | C(C)(C)(C)OC(NN1C(C2=C(C=CC=C2C=C1C)F)=O)=O | C15H17FN2O3
